US07465815B2
(cis)-3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine
Using (cis)-3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran obtained in Reference Example 349, (cis)-5-bromo-3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran was synthesized in the same manner as in Reference Example 23. Using this compound, (cis)-N-benzyl-3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine were synthesized in the same manner as in Reference Example 24. Using this compound, the title compound was synthesized in the same manner as in Reference Example 30. Yield 83%. Melting point: 91-92° C. (hexane).

reactant | (cis)-N-benzyl-3-(4-isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=C(C2=C([C@@H]([C@@H](O2)C)C2=CC=C(C=C2)C(C)C)C1C)C)C | C28H33NO
solvent | hexane | CCCCCC | C6H14
product | (cis)-3-(4-Isopropylphenyl)-2,4,6,7-tetramethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 83% | C(C)(C)C1=CC=C(C=C1)[C@@H]1[C@@H](OC2=C1C(=C(C(=C2C)C)N)C)C | C21H27NO
